US07576094B2
To a well stirred solution of 5-acetyl-4-hydroxy-2,3-dimethylphenyl acetate (4.7 g) in 100 mL of toluene were added Zn dust (5.0 g), HgCl2 (480 mg), water (9 mL) and concentrated HCl (9 mL). The heterogeneous mixture was allowed to reflux for 2 days. The mixture was cooled, filtered, and extracted with ethyl acetate. The organic layer was washed with saturated NaHCO3 and water, and dried over anhydrous Na2SO4. Evaporation of the organic solvents gave 3.5 g of 5-ethyl-2,3-dimethylbenzene-1,4-diol as an off-white powder.

reactant | 5-acetyl-4-hydroxy-2,3-dimethylphenyl acetate | 4.7 g | C(C)(=O)OC1=C(C(=C(C(=C1)C(C)=O)O)C)C | C12H14O4
reactant | water | 9 mL | O | H2O
reactant | HCl | 9 mL | Cl | ClH
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Zn | 5.0 g | [Zn] | Zn
catalyst | HgCl2 | 480 mg | Cl[Hg]Cl
product | 5-ethyl-2,3-dimethylbenzene-1,4-diol | 3.5 g | C(C)C=1C(=C(C(=C(C1)O)C)C)O | C10H14O2
